US07244729B2
2-Dimethylamino-N-{3-[4-((R)-1-phenyl-ethylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzyl}-acetamide
A mixture of 210 mg (0.5 mmol) 2-chloro-N-{3-[4-((R)-1-phenyl-ethylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzyl}-acetamide in 3 ml dry dioxane is treated with 268 μl (1.5 mmol) of a 5.6 N dimethylamine solution in ethanol (Fluka, Buchs, Switzerland) and then heated to 100° C. for 6 h. The clear yellow solution is cooled and the solvent evaporated. The residue is purified by flash chromatography using a mixture of dichloromethane/methanol with gradually increasing concentrations of methanol starting with 100:2.5 and ending with 100:5 and then switching to dichloromethane/methanol/conc. ammonia starting with 100:5:0.25 and ending with 100:10:0.5. The title compound is obtained as a colorless foam; Rf (dichloromethane/methanol/conc. ammonia 90:10:1)=0.41; MS-ES+: (M+H)+=429.

reactant | 2-chloro-N-{3-[4-((R)-1-phenyl-ethylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzyl}-acetamide | 0.5 mmol, 210 mg | ClCC(=O)NCC1=CC(=CC=C1)C1=CC2=C(N=CN=C2N[C@H](C)C2=CC=CC=C2)N1 | C23H22ClN5O
reactant | dimethylamine | 5.6 N | CNC | C2H7N
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | 2-Dimethylamino-N-{3-[4-((R)-1-phenyl-ethylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzyl}-acetamide | CN(CC(=O)NCC1=CC(=CC=C1)C1=CC2=C(N=CN=C2N[C@H](C)C2=CC=CC=C2)N1)C | C25H28N6O
